US07897634B2
4-(3,5-Diisopropyl-pyrazol-1-yl)-cyclohexanone
To a solution of 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-3,5-diisopropyl-1H-pyrazole (40 mg) in acetone (20 ml) was added HCl (20 mL, 2M aq). The reaction was heated to reflux overnight. The reaction was cooled, concentrated and extracted with EtOAc. The organic fractions were washed with water, saturated NaHCO3 and dried over Na2SO4. The solution was concentrated and used without further purification (Yield 30.6 mg). LC-MS (C15H24N2O calculated 248) m/z 249 (M+H).

reactant | 1-(1,4-dioxa-spiro[4.5]dec-8-yl)-3,5-diisopropyl-1H-pyrazole | 40 mg | O1CCOC12CCC(CC2)N2N=C(C=C2C(C)C)C(C)C | C17H28N2O2
reactant | HCl | 2M, 20 mL | Cl | ClH
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-(3,5-Diisopropyl-pyrazol-1-yl)-cyclohexanone | C(C)(C)C1=NN(C(=C1)C(C)C)C1CCC(CC1)=O | C15H24N2O
